US05714438
Phenylphosphonic dichloride (107 ml) and 4-trifluoromethylpyrimidin-6-one (103 g) were heated at 130° C. under nitrogen for 30 minutes. The reaction was cooled to room temperature and the reaction flask was equipped with a short path distillation head. The bath temperature was raised to about 200° C. and the product distilled out of the reaction mixture. Fractional distillation of this material gave 80.8 g of 4-chloro-6-trifluoromethylpyrimidine as a colorless liquid (b.p.=134°-136° C. @ 760 mm Hg).

reactant | 4-trifluoromethylpyrimidin-6-one | 103 g | FC(C=1N=CNC(C1)=O)(F)F | C5H3F3N2O
reactant | Phenylphosphonic dichloride | 107 ml | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
product | 4-chloro-6-trifluoromethylpyrimidine | 80.8 g | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
